US06114325
[2-[[N-[3-(Dibutylamino)propyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide hydrochloride (Compound 41)
4N Hydrochloric acid--ethyl acetate solution (1.36 ml) was added to a solution of [2-[[N-[3-(dibutylamino)propyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide (2.60 g) in ethyl acetate (26 ml) while being cooled with ice. After being stirred for 30 minutes, the reaction mixture was concentrated, thereby yielding 2.75 g of the aimed compound as white solid.

reactant | Hydrochloric acid | 4N | Cl | ClH
reactant | [2-[[N-[3-(dibutylamino)propyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide | 2.60 g | C(CCC)N(CCCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC)CCCC | C38H69N3O3
solvent | ethyl acetate | 26 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1.36 ml | C(C)(=O)OCC | C4H8O2
product | [2-[[N-[3-(Dibutylamino)propyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide hydrochloride | 2.75 g | Cl.C(CCC)N(CCCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC)CCCC | InChI=1S/C38H69N3O3.ClH/c1-4-7-10-11-12-13-14-15-16-17-18-19-20-21-22-25-33-41(35-42)37-28-24-23-27-36(37)34-44-38(43)39-29-26-32-40(30-8-5-2)31-9-6-3;/h23-24,27-28,35H,4-22,25-26,29-34H2,1-3H3,(H,39,43);1H
